US08754073B2
51.2 [1-benzyl-4-(4-fluorophenyl)-piperidin-4-yl]-(4-fluorophenyl)-methanone
Under argon 11.86 g magnesium chips are placed in 50 ml anhydrous diethyl ether, then a solution of 85.4 g 4-bromofluorobenzene in 200 ml anhydrous diethyl ether is slowly added dropwise. The reaction mixture is stirred for 2 h at reflux temperature and then cooled to ambient temperature. A solution of 45.4 g 1-benzyl-4-(4-fluoro-phenyl)-piperidine-4-carbonitrile in 100 ml anhydrous toluene is added dropwise. The diethyl ether is distilled off and the remainder of the reaction mixture is stirred overnight at 80° C. After cooling the reaction mixture is combined with 500 ml ice water and 100 g NH4Cl and the product is extracted with ethyl acetate. The organic phase is washed with water and sat. NaCl solution, dried and evaporated to dryness. 70 ml glacial acetic acid and 20 ml sulphuric acid 33% are added to the residue. The reaction mixture is heated to 100° C., then cooled, combined with ice water and adjusted to pH ˜9 with 4N NaOH. Then 250 ml diisopropylether are added. The reaction mixture is then stirred overnight at ambient temperature. The precipitate formed is suction filtered, washed with diisopropylether and water and dried. 42.7 g product are obtained as a solid. M.p: 136-138.5° C.

reactant | 4-bromofluorobenzene | 85.4 g | BrC1=CC=C(C=C1)F | C6H4BrF
reactant | 1-benzyl-4-(4-fluoro-phenyl)-piperidine-4-carbonitrile | 45.4 g | C(C1=CC=CC=C1)N1CCC(CC1)(C#N)C1=CC=C(C=C1)F | C19H19FN2
reactant | diethyl ether | 50 ml | C(C)OCC | C4H10O
reactant | diethyl ether | 200 ml | C(C)OCC | C4H10O
solvent | toluene | 100 ml | C1(=CC=CC=C1)C | C7H8
product | [1-benzyl-4-(4-fluorophenyl)-piperidin-4-yl]-(4-fluorophenyl)-methanone | 42.7 g | C(C1=CC=CC=C1)N1CCC(CC1)(C1=CC=C(C=C1)F)C(=O)C1=CC=C(C=C1)F | C25H23F2NO
